US07091215B2
After dissolving tert-butyl N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]carbamate (50 mg) in N,N-dimethylformamide (2 mL), sodium hydride (60%, 15 mg) was added while cooling on ice, and then 2-tetrahydrofuranylmethyl chloride (16 μL) was added and the mixture was stirred for 3 hours at 60° C. under a nitrogen stream. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure to obtain tert-butyl N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2-furanylmethylcarbamate. The crude product was dissolved in ethyl acetate (2 mL) without purification, a 4 N hydrochloric acid/ethyl acetate solution (4 mL) was added, and the mixture was stirred at 40° C. for 1 hour. The reaction mixture was neutralized with 5 N aqueous sodium hydroxide while cooling on ice, and then extraction was performed with ethyl acetate and the organic layer was washed with water and brine. The obtained organic layer was dried over anhydrous magnesium sulfate and filtered, and the solvent was concentrated under reduced pressure to obtain N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2-furanylmethylamine as a crude product. This was dissolved in tetrahydrofuran (2 mL) without purification, and after adding cyclopropanecarboxyaldehyde (27 μL) and 3 M aqueous sulfuric acid (0.121 mL), sodium borohydride (9 mg) was added in five portions while vigorously stirring on ice, and stirring was continued for 30 minutes. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, extraction was performed with ethyl acetate, the solvent was concentrated, the residue was purified by silica gel column chromatography, and the title compound (31 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as a yellow oil.

reactant | tert-butyl N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]carbamate | 50 mg | COC1=C(C(=CC(=C1)OC)C)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)OC | C22H27N3O5
reactant | sodium hydride | 15 mg | [H-].[Na+]
reactant | 2-tetrahydrofuranylmethyl chloride | 16 μL | O1C(CCC1)CCl | C5H9ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-2-furanylmethylcarbamate | COC1=C(C(=CC(=C1)OC)C)C1=CC=CC=2N1N=C(C2N(C(OC(C)(C)C)=O)CC2OCCC2)OC | C27H35N3O6
